US05374732
In a 50 ml flask, sodium hydride (60% in oil) (200 mg, 5 mmol) and tetrahydrofuran (10 ml) were charged, and then 4,6-dimethylpyridine-2-sulfonic acid (935 mg) was gradually added at room temperature. Then, the mixture was stirred at room temperature for about 30 minutes. After the addition of a small amount of ethanol to the reaction mixture, the precipitated crystal was recovered by filtration. The crystal was washed with ethyl acetate and diethyl ether successively and dried to obtain sodium 4,6-dimethyl-2-pyridinesulfonate (1.05 g) at a quantitative yield. Melting point, 257°-258° C.

reactant | sodium hydride | 5 mmol, 200 mg | [H-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 4,6-dimethylpyridine-2-sulfonic acid | 935 mg | CC1=CC(=NC(=C1)C)S(=O)(=O)O | C7H9NO3S
solvent | ethanol | C(C)O | C2H6O
product | sodium 4,6-dimethyl-2-pyridinesulfonate | 1.05 g, quantitative yield | CC1=CC(=NC(=C1)C)S(=O)(=O)[O-].[Na+] | InChI=1S/C7H9NO3S.Na/c1-5-3-6(2)8-7(4-5)12(9,10)11;/h3-4H,1-2H3,(H,9,10,11);/q;+1/p-1
